US07105544B2
1-(4-FLUOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-pyridinyl]-1-piperidinyl}propyl)cyclopentanecarboxamide
Example 66 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz; CDCl3) δ 8.06 (d, 1H, J=8.4 Hz), 7.79 (s, 1H), 7.64 (t, 1H, J=7.6 Hz), 7.38–7.34 (m, 2H), 7.01–6.97 (m, 2H), 6.88 (d, 1H, J=7.2 Hz), 6.53 (br s, 1H), 3.27 (dd, 2H, J=6.0, 12.4 Hz), 2.94 (d, 2H, J=14.0 Hz), 2.54–2.48 (m, 4H), 2.32 (t, 2H, J=6.4 Hz), 1.99–1.60 (m, 14H), 1.25 (d, 6H, J=7.2 Hz); ESMS m/e: 495.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 1-(4-FLUOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-pyridinyl]-1-piperidinyl}propyl)cyclopentanecarboxamide | FC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=NC(=CC=C1)NC(C(C)C)=O | C29H39FN4O2
